US05834506
tert-Butyl-(5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)-dimethyl-silane
A solution of 2.0 g (9.0 mmol) of 5-tert-butyl-2-methyl-4-thiocyanato-phenol (prepared in Example GGG), imidazole (0.800 g, 11.8 mmol) and DMF (10 mL) was treated with t-butyldimethylsilylchloride (1.64 g, 10.9 mmol) and stirred overnight. The mixture was diluted with saturated sodium bicarbonate and the mixture extracted with hexanes. The hexane layers were combined, dried (Na2 SO4), and the solvent removed in vacuo to yield the title compound. 1H NMR (CDCl3) δ 0.23 (s, 6 H), 1.01 (s, 9 H), 1.45 (s, 9 H), 2.16 (s, 3 H), 6.87 (s, 1 H), 7.49 (s, 1 H).

reactant | 5-tert-butyl-2-methyl-4-thiocyanato-phenol | 9.0 mmol, 2.0 g | C(C)(C)(C)C=1C(=CC(=C(C1)O)C)SC#N | C12H15NOS
reactant | imidazole | 11.8 mmol, 0.800 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | t-butyldimethylsilylchloride | 10.9 mmol, 1.64 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | tert-Butyl-(5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C(=C1)C(C)(C)C)SC#N)C | C18H29NOSSi
